US06537948B1
To a mixture of 0.55 g of an iron powder, 3 ml of acetic acid and 0.3 ml of water was added a solution of 0.548 g of 4-benzyloxy-3-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}pyridine in 0.5 ml of acetic acid and 3 ml of ethyl acetate dropwise. After completion of the addition, the mixture was stirred for 3 hour at 40-50° C. The mixture was poured into water, then, the mixture was filtrated through Celite, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate solution, and saturated saline, dried over anhydrous magnesium sulfate, and concentrated to obtain 0.438 g of 3-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-4-benzyloxypyridine.

reactant | water | 0.3 ml | O | H2O
reactant | 4-benzyloxy-3-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}pyridine | 0.548 g | C(C1=CC=CC=C1)OC1=C(C=NC=C1)OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)[N+](=O)[O-] | C24H16F4N4O6
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
catalyst | iron | 0.55 g | [Fe] | Fe
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 3-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-4-benzyloxypyridine | 0.438 g | NC1=C(OC=2C=NC=CC2OCC2=CC=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C24H18F4N4O4
